US07960552B2
To a solution of 2,6-dichlorobenzaldehyde oxime (3.73 g, 19.6 mmol) in N,N-dimethylformamide (12 mL) was added solid N-chlorosuccinimide (2.62 g, 19.6 mmol). The solution was stirred for approximately 1 hour and the poured into water and extracted twice with ether. The combined organic layers containing the crude imidoyl chloride were dried over magnesium sulfate and concentrated. To a solution of ethyl 3-cyclopentyl-3-oxopropanoate (4.34 g, 23.6 mmol) in tetrahydrofuran (5 mL) at 0° C. was added a 25 wt % solution of sodium ethoxide in ethanol (7.4 mL, 24 mmol) quickly. The above imidoyl chloride was added. A solid was seen to precipitate. The mixture was allowed to warm to ambient temperature and stir overnight. The mixture was then poured into water and extracted three times with ethyl acetate and the combined organic layers were dried over magnesium sulfate, concentrated and the residue purified by chromatography (silica gel 5% ethyl acetate in hexanes) to afford ethyl 5-cyclopentyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate (3.04 g, 43%). 1H-NMR (400 MHz, DMSO-d6) δ 7.63-7.53 (m, 3H), 4.02 (q, J=7 Hz, 2H), 3.92-3.84 (m, 1H), 2.14-2.06 (m, 2H), 1.84-1.64 (m, 6H), 0.91 (t, J=5 Hz, 3H).

reactant | 2,6-dichlorobenzaldehyde oxime | 19.6 mmol, 3.73 g | ClC1=C(C=NO)C(=CC=C1)Cl | C7H5Cl2NO
reactant | N-chlorosuccinimide | 19.6 mmol, 2.62 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethyl 3-cyclopentyl-3-oxopropanoate | 23.6 mmol, 4.34 g | C1(CCCC1)C(CC(=O)OCC)=O | C10H16O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 24 mmol, 7.4 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 5-cyclopentyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate | 3.04 g, 43% | C1(CCCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)C(=O)OCC | C17H17Cl2NO3
